US08686005B2
To a solution of 5,6-Diamino-4-methyl-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione (1.7 g, 5.90 mmol) in MeOH (50 mL) were added AcOH (3 mL) and 4-iodo-2-methoxynicotinaldehyde (1.55 g, 5.90 mmol) and the resulting mixture was heated at 60° C. for overnight. The reaction mixture was evaporated in vacuo and the residue was purified by flash chromatography (5-10% (6% NH3 in MeOH)/CHCl3) to afford 2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (1.48 g, 47%) as a yellow solid.

reactant | 5,6-Diamino-4-methyl-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione | 5.90 mmol, 1.7 g | NC=1C(=C2C(N(C(C2=CC1N)=O)C1CCN(CC1)C)=O)C | C15H20N4O2
reactant | AcOH | 3 mL | CC(=O)O | C2H4O2
reactant | 4-iodo-2-methoxynicotinaldehyde | 5.90 mmol, 1.55 g | IC1=CC=NC(=C1C=O)OC | C7H6INO2
solvent | MeOH | 50 mL | CO | CH4O
product | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 1.48 g, 47% | IC1=C(C(=NC=C1)OC)C=1NC2=CC=3C(N(C(C3C(=C2N1)C)=O)C1CCN(CC1)C)=O | C22H22IN5O3
